US04963566
1,4-Dimethyl-8-hydroxymethyl-1,2-dihydroquinoline (0.9 g) was dissolved in dichloromethane (30 ml). To this solution was added dropwise thionylchloride (0.6 g) with stirring under ice-cooling, and the mixture was stirred for 30 minutes. After completion of the reaction, dichloromethane was distilled off under reduced pressure, and n-hexane was added to the residue. The mixture was concentrated under reduced pressure to give 1,4-dimethyl-8-chloromethyl-1,2-dihydroquinoline (0.8 g).

reactant | 1,4-Dimethyl-8-hydroxymethyl-1,2-dihydroquinoline | 0.9 g | CN1CC=C(C2=CC=CC(=C12)CO)C | C12H15NO
reactant | thionylchloride | 0.6 g | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1,4-dimethyl-8-chloromethyl-1,2-dihydroquinoline | 0.8 g | CN1CC=C(C2=CC=CC(=C12)CCl)C | C12H14ClN
